US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]pyrazine-2-carboxamide
Using a solution of N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (327 mg, 1.0 mmol) and 2-pyrazinecarbonylchloride (171 mg, 1.2 mmol) in N,N-dimethylacetamide (6.0 mL), and by a reaction in the same manner as in Example 148, the title compound (113 mg, 26%) was obtained as colorless crystals.

reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 1.0 mmol, 327 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | 2-pyrazinecarbonylchloride | 1.2 mmol, 171 mg | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]pyrazine-2-carboxamide | 113 mg, 26% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=NC=CN=C2)F)C1 | C21H16FN7O3
